US06583150B1
2) Synthesis of 4-Bromoquinoline-5,8-dione
100 mg (0.373 mmol) of 4-bromo-5,8-dimethoxyquinoline are dissolved in 8 mL of CH3CN and 4 mL of water at room temperature. 0.6 g (1.11 mmol) of cerium ammonium nitrate (CAN) is added and the mixture is stirred for 30 min. After evaporating off the CH3CN on a rotary evaporator, 100 mL of water are added and the medium is extracted with CHCl3 (3 times 100 mL). After drying the organic phases over MgSO4 and evaporating off the solvent on a rotary evaporator, 83 mg of quinone are obtained in the form of a pinkish powder.

reactant | 4-bromo-5,8-dimethoxyquinoline | 0.373 mmol, 100 mg | BrC1=CC=NC2=C(C=CC(=C12)OC)OC | C11H10BrNO2
reactant | water | 4 mL | O | H2O
reactant | cerium ammonium nitrate | 1.11 mmol, 0.6 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | 4-Bromoquinoline-5,8-dione | BrC1=CC=NC=2C(C=CC(C12)=O)=O | C9H4BrNO2
